US09328096B2
Methyl 2-chloro-4-fluoro-5-(pyridin-2-yl)benzoate
To a solution of methyl 2-chloro-4-fluoro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (212 mmol) in THF (400 mL), was added 2-bromopyridine (33.4 g, 211 mmol), potassium carbonate (117 g, 848 mmol) and water (64 mL). The mixture was degassed with argon for 30 minutes. To this mixture was added tetrakis(triphenylphosphine)palladium (12.2 g, 10.6 mmol) and the mixture heated at reflux for 1.5 h. The mixture was cooled to room temperature and filtered through Celite, washing with EtOAc (1.2 L) and water (800 mL). The filtrate was diluted with saturated aqueous brine solution (200 mL) and the aqueous layer separated and extracted with EtOAc (600 mL). The combined organic layers were dried (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography over silica gel, eluting with EtOAc:hexane (3:17 to 1:4) and concentrated in vacuo to a slurry, which was diluted with heptane (100 mL) and cooled to 0° C. The solid was collected by filtration to afford the title compound (37.6 g, 67%).

reactant | methyl 2-chloro-4-fluoro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 212 mmol | ClC1=C(C(=O)OC)C=C(C(=C1)F)B1OC(C(O1)(C)C)(C)C | C14H17BClFO4
reactant | 2-bromopyridine | 211 mmol, 33.4 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | potassium carbonate | 848 mmol, 117 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 64 mL | O | H2O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 10.6 mmol, 12.2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 2-chloro-4-fluoro-5-(pyridin-2-yl)benzoate | 37.6 g, 67% | ClC1=C(C(=O)OC)C=C(C(=C1)F)C1=NC=CC=C1 | C13H9ClFNO2
